US06057369
7-Phenyl-hept-2-enoic acid hydroxyamide (0.3 g; 1.4 mmol) is combined with thiophenol (0.26 g; 2.4 mmol) and piperidine (0.04 g; 0.5 mmol) in 1,4-dioxane (6 mL) and heated to 85° C. for 4 hours. After cooling, the reaction is concentrated in vacuo and purified by column chromatography using 5% MeOH/CH2Cl2 to obtain 7-phenyl-3-phenylsulfanylheptanoic acid hydroxyamide.

reactant | 7-Phenyl-hept-2-enoic acid hydroxyamide | 1.4 mmol, 0.3 g | ONC(C=CCCCCC1=CC=CC=C1)=O | C13H17NO2
reactant | thiophenol | 2.4 mmol, 0.26 g | C1(=CC=CC=C1)S | C6H6S
reactant | piperidine | 0.5 mmol, 0.04 g | N1CCCCC1 | C5H11N
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 7-phenyl-3-phenylsulfanylheptanoic acid hydroxyamide | ONC(CC(CCCCC1=CC=CC=C1)SC1=CC=CC=C1)=O | C19H23NO2S
